US06172085B2
5,5-Diphenylvaleric acid
To a solution of 5,5-diphenylvaleronitrile (6.5 g) in methanol (30 mL), 80 mL of water and 10 g of sodium hydroxide were added, and the mixture was refluxed for 72 hours. After the reaction mixture was allowed to cool, it was washed with diethyl ether and adjusted to pH 1 with concentrated hydrochloric acid. This acidic solution was extracted with diethyl ether and the extract was washed with saturated aqueous NaCl, dried over MgSO4, and concentrated. The residue was recrystallized to provide 5.5 g of the title compound.

reactant | 5,5-diphenylvaleronitrile | 6.5 g | C1(=CC=CC=C1)C(CCCC#N)C1=CC=CC=C1 | C17H17N
reactant | sodium hydroxide | 10 g | [OH-].[Na+]
reactant | methanol | 30 mL | CO | CH4O
solvent | water | 80 mL | O | H2O
product | 5,5-Diphenylvaleric acid | 5.5 g, Yield 86% | C1(=CC=CC=C1)C(CCCC(=O)O)C1=CC=CC=C1 | C17H18O2
